US09403810B2
Step 4: [4-Isopropoxycyclohex-1-en-1-yl trifluoromethanesulfonate]
1.6M nBuLi in hexane (Aldrich) (1.285 mL, 2.057 mmol) was added to a solution of diisopropylamine (Acros) (0.307 mL, 2.155 mmol) in dry THF (30 mL) under nitrogen at −78° C. The solution was allowed to warm to 0° C. for 30 minutes before re-cooling to −78° C. A solution of 4-isopropoxycyclohexanone (306 mg, 1.959 mmol) in dry THF (5 mL) was added over 5 minutes and the mixture was stirred at −78° C. for 1 hour before adding a solution of 2-[N,N-bis(trifluoromethylsulfonyl)amino]pyridine (Alfa Aesar) (772 mg, 2.155 mmol) in dry THF (5 mL). The mixture was stirred and allowed to warm to room temperature overnight. The resulting mixture was quenched with a saturated aqueous NaHCO3 solution (30 mL) and the aqueous was extracted with TBME (2×20 mL). The combined organic extracts were washed with 10% aqueous NaOH (30 mL), brine (30 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-10% EtOAc in iso-hexane afforded the title compound;

reactant | nBuLi | 1.6M | [Li]CCCC
reactant | hexane | 2.057 mmol, 1.285 mL | CCCCCC | C6H14
reactant | diisopropylamine | 2.155 mmol, 0.307 mL | C(C)(C)NC(C)C | C6H15N
reactant | 4-isopropoxycyclohexanone | 1.959 mmol, 306 mg | C(C)(C)OC1CCC(CC1)=O | C9H16O2
reactant | 2-[N,N-bis(trifluoromethylsulfonyl)amino]pyridine | 2.155 mmol, 772 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=CC=C1)(F)F | C7H4F6N2O4S2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-Isopropoxycyclohex-1-en-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC(CC1)OC(C)C)(F)F | C10H15F3O4S
